US07208494B2
To a solution of 0.58 g (4R,9aR)-7-fluoro-6-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 10 mL tetrahydrofuran was added 0.038 g lithium borohydride and the mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned between water and ethyl acetate. The phases were separated and the organic phase was evaporated to dryness and purified by chromatography on silica gel with heptane:ethyl acetate=1:1 to yield 0.468 g (4R,9aR)-7-fluoro-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester as yellowish crystals; m.p.: 91–93° C.

reactant | (4R,9aR)-7-fluoro-6-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.58 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C=O)F | C17H22FN3O3
reactant | lithium borohydride | 0.038 g | [BH4-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (4R,9aR)-7-fluoro-6-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.468 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)CO)F | C17H24FN3O3
